US08877751B2
Preparation of 5-bromo-2-(3-chloromethylphenyl)pyrimidine
80 g (302 mmol) of [3-(5-bromopyrimidin-2-yl)phenyl]methanol are suspended in 300 ml of dichloromethane, and 33 ml (453 mmol) of thionyl chloride are slowly added with cooling. The reaction mixture is stirred at room temperature for 3 h. The solvent is distilled off, co-evaporated 3 times with toluene and stirred with diethyl ether;

reactant | [3-(5-bromopyrimidin-2-yl)phenyl]methanol | 302 mmol, 80 g | BrC=1C=NC(=NC1)C=1C=C(C=CC1)CO | C11H9BrN2O
reactant | thionyl chloride | 453 mmol, 33 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 5-bromo-2-(3-chloromethylphenyl)pyrimidine | BrC=1C=NC(=NC1)C1=CC(=CC=C1)CCl | C11H8BrClN2
